US08471005B2
Into a 30 mL vial, Palladium Acetate (123 mg, 0.546 mmol) and Triphenylphosphine (409 mg, 1.56 mmol) were added and purged under an atmosphere of Nitrogen for 10 minutes. 1,4-Dioxane (20.4 mL, 262 mmol) was added and stirred for 10 minutes. 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (480 mg, 2.0 mmol), Phenylboronic acid (527 mg, 4.32 mmol), N,N-Dimethylformamide (16.4 mL, 211 mmol) and 1.50 M of Sodium carbonate in Water (16.4 mL, 24.5 mmol) were added. The mixture was heated at 90° C. for 4 hours. The solvent was removed under vacuum to give a brown solid. The solid was partitioned with DCM, filtered and washed with DCM. The filtrate was concentrated to give a semi-solid. The product was isolated via ISCO column chromatography with DCM and MeOH as eluant (0 to 5% methanol). The collected fractions afforded 2-Methylsulfanyl-7-phenyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow solid (295 mg, 62%). NMR 1H (DSMO-d6)-9.01 (s, 1H), 8.22 (d, 2H, J=9.08 Hz), 7.53 (t, 2H, J=7.56 Hz), 7.34-7.45 (m, 2H), 7.11 (d, 1H, J=4.20), 2.58 (s, 3H)

reactant | Triphenylphosphine | 1.56 mmol, 409 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-Dioxane | 262 mmol, 20.4 mL | O1CCOCC1 | C4H8O2
reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 2.0 mmol, 480 mg | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
reactant | Phenylboronic acid | 4.32 mmol, 527 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | N,N-Dimethylformamide | 211 mmol, 16.4 mL | CN(C=O)C | C3H7NO
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 24.5 mmol, 16.4 mL | O | H2O
catalyst | Palladium Acetate | 0.546 mmol, 123 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Methylsulfanyl-7-phenyl-pyrrolo[2,1-f][1,2,4]triazine | 295 mg, 62% | CSC1=NN2C(C=N1)=CC=C2C2=CC=CC=C2 | C13H11N3S
